US07964636B2
Step B—Coupling of Protected Ornithine to Resin
Fmoc-Orn(Dde)-OH (386 mg, 0.744 mmol, 4 equiv.), HOBt (114 mg, 0.744 mmol, 4 equiv.) and HBTU (282 mg, 0.744 mmol, 4 equiv.) were dissolved in 2.3 ml DMF. This mixture was let stand at room temperature for 10 min before 0.4 M N-methylmorpholine (in DMF) (3.7 ml, 1.488 mmol, 8 equiv.) was added to it. The resin was treated with this new mixture with gentle rocking for ˜3 h. After the solution was filtered away, the resin was washed three times with DMF (5 ml each time).

reactant | Fmoc-Orn(Dde)-OH | 0.744 mmol, 386 mg, 4 equiv. | N([C@@H](CCCNC(C)=C1C(=O)CC(C)(C)CC1=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C30H34N2O6
reactant | HOBt | 0.744 mmol, 114 mg, 4 equiv. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HBTU | 0.744 mmol, 282 mg, 4 equiv. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 1.488 mmol, 0.4 M, 3.7 ml, 8 equiv. | CN1CCOCC1 | C5H11NO
solvent | DMF | 2.3 ml | CN(C)C=O | C3H7NO
product | Ornithine | N[C@@H](CCCN)C(=O)O | C5H12N2O2
